US09428511B2
Step 5: 8-(((3S,4S)-1-(5-Cyanopyridin-2-yl)-4-methylpyrrolidin-3-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide
A solution of 2-(1-ethyl-1H-pyrazol-4-yl)-8-(((3S,4S)-4-methylpyrrolidin-3-yl)amino)imidazo[1,2-b]pyridazine-7-carboxamide, 2 TFA (0.020 g, 0.034 mmol), 6-bromonicotinonitrile (0.013 g, 0.069 mmol) and Hunig's Base (0.030 ml, 0.172 mmol) in DMF (0.3 ml) in a reaction vial was stirred at 100° C. for 5 h. The crude material was purified via preparative LC/MS (Method A). Fractions containing the desired product were combined and dried via centrifugal evaporation to afford the title compound of Example 1 (10.0 mg, 0.022 mmol, 63.8% yield). 1H NMR (500 MHz, deuterated 1:1 methanol:chloroform) δ 8.53 (br. s., 1H), 8.51 (s, 1H), 8.15 (s, 1H), 8.11 (s, 1H), 8.07 (s, 1H), 7.84 (d, J=8.9 Hz, 1H), 6.69 (d, J=7.4 Hz, 1H), 6.32 (br. s., 1H), 4.43 (q, J=7.3 Hz, 3H), 4.19 (br. s., 1H), 4.12-3.91 (m, 2H), 3.70-3.57 (m, 1H), 3.06 (d, J=12.9 Hz, 1H), 1.72 (t, J=7.4 Hz, 3H), 1.43 (d, J=6.9 Hz, 3H). LC/MS (Method F): m/z 456.20 ([M+H]+), Rt. 1.310 min.

reactant | 2-(1-ethyl-1H-pyrazol-4-yl)-8-(((3S,4S)-4-methylpyrrolidin-3-yl)amino)imidazo[1,2-b]pyridazine-7-carboxamide | C(C)N1N=CC(=C1)C=1N=C2N(N=CC(=C2N[C@@H]2CNC[C@@H]2C)C(=O)N)C1 | C17H22N8O
reactant | TFA | 0.034 mmol, 0.020 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-bromonicotinonitrile | 0.069 mmol, 0.013 g | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | Hunig's Base | 0.172 mmol, 0.030 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | 8-(((3S,4S)-1-(5-Cyanopyridin-2-yl)-4-methylpyrrolidin-3-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide | 0.022 mmol, 10.0 mg, 63.8% yield | C(#N)C=1C=CC(=NC1)N1C[C@H]([C@H](C1)C)NC=1C=2N(N=CC1C(=O)N)C=C(N2)C=2C=NN(C2)CC | C23H24N10O
